US07700641B2
Following the procedure described in EXAMPLE 10.87, and making non-critical variations using 1′-(2-aminoethyl)spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one to replace 1′-(piperidin-4-ylmethyl)spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one, and 2-bromopyridine to replace 2-bromobenzene, 1′-(2-(pyridin-2-ylamino)ethyl)-spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one was obtained as the first fraction from the chromatography as a white solid (5%): mp 61-63° C.; 1H NMR (300 MHz, CDCl3) δ 8.05 (d, 1H), 7.50-6.97 (m, 5H), 6.57 (dd, 1H), 6.50 (s, 1H), 6.38 (d, 1H), 6.03 (s, 1H), 5.85 (s, 1H), 5.84 (s, 1H), 4.84 (d, 1H), 4.79 (t, 1H), 4.60 (d, 1H), 4.15-3.94 (m, 2H), 3.81-3.64 (m, 2H); 13C NMR (75 MHz, CDCl3) δ 178.4, 158.2, 156.0, 149.0, 148.0, 142.4, 142.38, 137.4, 132.3, 129.1, 124.0, 123.5, 119.5, 113.3, 109.0, 108.3, 103.2, 101.6, 93.7, 80.5, 58.3, 40.1, 39.9; MS (ES+) m/z 402 (M+1). 1′-(2-(dipyridin-2-ylamino)ethyl)-spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one was obtained as the second fraction from the chromatography (31%): mp 165-167° C.; 1H NMR (300 MHz, CDCl3) δ 8.31 (dd, 2H), 7.48 (d, 2H), 7.23 (t, 1H), 7.09-6.83 (m, 7H), 6.47 (s, 1H), 5.95 (s, 1H), 5.88-5.81(m, 2H), 4.73 (d, 1H), 4.67-4.49(m, 2H), 4.46 (d, 1H), 4.20 (t, 2H); 13C NMR(75 MHz, CDCl3) δ 177.6, 157.0, 156.0, 148.8, 148.4, 143.1, 142.3, 137.4, 132.3, 128.9, 123.6, 123.1, 119.6, 117.5, 114.5, 109.3, 103.4, 101.6, 93.6, 80.7, 58.2, 45.9, 39.5; MS (ES+) m/z 479 (M+1).

reactant | 1′-(2-aminoethyl)spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | NCCN1C(C2(C3=CC=CC=C13)COC=1C2=CC2=C(OCO2)C1)=O | C18H16N2O4
reactant | 1′-(piperidin-4-ylmethyl)spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | N1CCC(CC1)CN1C(C2(C3=CC=CC=C13)COC=1C2=CC2=C(OCO2)C1)=O | C22H22N2O4
reactant | 2-bromopyridine | BrC1=NC=CC=C1 | C5H4BrN
reactant | 2-bromobenzene | BrC1=CC=CC=C1 | C6H5Br
product | 1′-(2-(pyridin-2-ylamino)ethyl)-spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | N1=C(C=CC=C1)NCCN1C(C2(C3=CC=CC=C13)COC=1C2=CC2=C(OCO2)C1)=O | C23H19N3O4
